US04783462
1-(iv) 2-Ethyl-4-formylphenol
45.5 g of titanium tetrachloride was dropwise added, under stirring with ice, to a solution obtained by dissolving 14.64 g of 2-ethylphenol in 200 ml of dichloromethane. After the completion of the dropwise addition, 22.76 g of α,α-dichloromethyl methyl ether was dropwise added thereto. The ice bath was removed, and the reaction solution was stirred at room temperature for 2 hours. Then, the reaction solution was poured into a 10% hydrochloric acid aqueous solution, and the mixture was stirred for 2 hours. The reaction mixture was extracted with chloroform. The chloroform layer was washed with water, and then extracted with a 10% sodium hydoxide aqueous solution. The alkali extract layer was washed twice with chloroform, and then acidified to a pH of about 2 by gradually adding concentrated hydrochloric acid. Then, the mixture was extracted with ethyl acetate. The extract was washed sequentially with water and a saturated sodium chloride aqueous solution, and dried over sodium sulfate. Then, the solvent was distilled off to obtain a dark reddish purple oily substance. This product was purified by silica gel column chromatography by using benzene-ethyl acetate (16 : 1, v/v) as the developer, whereby 6.90 g of the above identified compound was obtained as a pale red oily substance.

reactant | 2-ethylphenol | 14.64 g | C(C)C1=C(C=CC=C1)O | C8H10O
reactant | α,α-dichloromethyl methyl ether | 22.76 g | COC(Cl)Cl | C2H4Cl2O
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
catalyst | titanium tetrachloride | 45.5 g | [Ti](Cl)(Cl)(Cl)Cl
product | 2-Ethyl-4-formylphenol | C(C)C1=C(C=CC(=C1)C=O)O | C9H10O2
